US07378525B2
4-(1-Butyryl-piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid m-tolylamide (F-26)
The title compound was prepared according to the general procedure in Scheme 11, substituting 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid m-tolylamide for 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide, and butyryl chloride for ethyl chloroformate. 1H NMR (300 MHz, CDCl3) δ 8.65 (d, 1H), 8.35 (d, 1H), 8.27 (m, 2H), 7.70 (m, 2H), 7.60 (s, 1H), 7.52 (m, 1H), 7.28 (m, 2H), 7.02 (d, 1H), 5.10 (d, 1H), 4.07 (m, 1H), 3.58 (m, 1H), 3.23 (m, 1H), 2.90 (m, 1H), 2.50 (m, 1H), 2.14 (m, 2H), 1.57 (m, 4H), 1.21 (m, 1H), 1.04 (m, 1H), 0.89 (t, 3H); LC/MS m/z 494 (M+H)+.

reactant | 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=CC=C(C2=CC=CC=C12)S(NC1CCNCC1)(=O)=O | C22H29N3O3S
reactant | butyryl chloride | C(CCC)(=O)Cl | C4H7ClO
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 4-(1-Butyryl-piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid m-tolylamide | C1(=CC(=CC=C1)NC(=O)C1=CC=C(C2=CC=CC=C12)S(NC1CCN(CC1)C(CCC)=O)(=O)=O)C | C27H31N3O4S
